US06492367B1
To a solution of the methylene sulfonamide from part F (20.46 g, 51.5 mmol) in dimethylformamide (90 mL) was added potassium carbonate (21.3 g, 154.7 mmol), bis-(2-chloroethyl)benzyl amine (12.0 g, 51.5 mmol; and 18-Crown-6 (700 mg). The slurry was stirred at sixty degrees Celsius. After twenty four hours the reaction was concentrated in vacuo. The residue was taken up in ethyl acetate, washed with water three times, saturated sodium chloride solution, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was recrystallized (methanol) to give the N-benzyl piperidine sulfonamide as a white solid (15 g, 52%).

reactant | methylene sulfonamide | C=NS(=O)=O | CH3NO2S
reactant | potassium carbonate | 154.7 mmol, 21.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | bis-(2-chloroethyl)benzyl amine | ClCCN(CC1=CC=CC=C1)CCCl | C11H15Cl2N
reactant | 18-Crown-6 | 700 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
product | N-benzyl piperidine sulfonamide | 15 g, 52% | C(C1=CC=CC=C1)NS(=O)(=O)N1CCCCC1 | C12H18N2O2S
